US06822100B2
9-Borabicyclo[3.3.1]nonane (4.1 ml of 0.5 M THF solution, 2.05 mmol) was added drop wise under a nitrogen atmosphere to a stirred solution of 1-(toluene-4-sulfonyl)-3-(2-vinyl-cyclopropyl)-1H-indole-5-carbonitrile (735 mg, 2.01 mmol) in dry THF (6 ml). The solution was heated to 30° C. for 6 hr and then cooled to 20° C. Absolute ethanol (12 ml), sodium hydroxide (2.6 ml of a 1N solution, 2.6 mmol), and hydrogen peroxide (0.85 ml of a 30% solution) were added sequentially to the stirred solution. The mixture was heated to 40° C. for 1 hr and then cooled to room temperature. Sodium hydroxide (2 ml of a 1N solution) was added and the mixture was extracted with ethyl acetate. The ethyl acetate extract was dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel using 3% acetone in methylene chloride as the eluent to give 3-[2-(2-hydroxy-ethyl)-cyclopropyl]-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile (300 mg, 45%). 1H NMR (300 MHz, CDCl3): δ 8.01 (d, 2H), 7.97 (s, 1H), 7.73(d, 1H), 7.28(s, 1H), 7.24 (d, 2H), 3.80 (m, 2H), 2.35 (s, 3H), 1.74-1.62 (m, 4H), 1.08 (m, 1H), 0.90 (m, 1H), 0.83 (m, 1H). MS m/e 381.17 (MH+).

reactant | 9-Borabicyclo[3.3.1]nonane | 2.05 mmol, 0.5 M, 4.1 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | 1-(toluene-4-sulfonyl)-3-(2-vinyl-cyclopropyl)-1H-indole-5-carbonitrile | 2.01 mmol, 735 mg | C1(=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)C#N)C1C(C1)C=C)C | C21H18N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 3-[2-(2-hydroxy-ethyl)-cyclopropyl]-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile | 300 mg, 45% | OCCC1C(C1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C21H20N2O3S
